US07576063B2
3-Benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole
To a suspension of 3-(4-methoxyphenyl)-3-oxothiopropionic acid O-benzyl ester (0.60 g) and isopropylhydrazine hydrochloride (0.29 g) in acetonitrile (2 mL) was added triethylamine (0.81 g) and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture and the mixture was extracted with dichloromethane. The solvent of the organic layer was removed under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: hexane/dichloromethane=3/1-1/3) to give the title compound (0.40 g).

reactant | 3-(4-methoxyphenyl)-3-oxothiopropionic acid O-benzyl ester | 0.60 g | C(C1=CC=CC=C1)OC(CC(=O)C1=CC=C(C=C1)OC)=S | C17H16O3S
reactant | isopropylhydrazine hydrochloride | 0.29 g | Cl.C(C)(C)NN
reactant | triethylamine | 0.81 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole | 0.40 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C1=CC=C(C=C1)OC)C(C)C | C20H22N2O2
